US09193741B2
Synthesis of diethyl 2-(2-(4-fluorophenyl)acetamido)malonate
To a solution of 4-fluorophenylacetic acid (4.5 g, 29.3 mmol) and 1-hydroxybenzotriazole (4.35 g, 32.2 mmol) in dichloromethane (140 ml) was added dicyclohexylcarbodiimide (6.65 g, 32.2 mmol). The reaction mixture was stirred at room temperature for 2 hours. The resulting solution was cooled to 0° C., and then a solution of diethyl aminomalonate hydrochloride (6.2 g, 29.3 mmol) in pyridine (4.5 ml, 29.3 mmol) and DMF (10 ml) was added. The temperature was allowed to rise to ambient temperature. After 1 hour, the reaction mixture was concentrated under reduced pressure, and the residue was partitioned between ethyl acetate and a 5% NaHCO3 solution. The organic layer was washed with water, brine and dried over Na2SO4. After removing the solvents, the crude residue was purified by flash chromatography on silica (CH2Cl2/MeOH 50:1) to yield the title compound as a white solid (8.5 g, 93%).

reactant | 4-fluorophenylacetic acid | 29.3 mmol, 4.5 g | FC1=CC=C(C=C1)CC(=O)O | C8H7FO2
reactant | 1-hydroxybenzotriazole | 32.2 mmol, 4.35 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | dicyclohexylcarbodiimide | 32.2 mmol, 6.65 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | diethyl aminomalonate hydrochloride | 29.3 mmol, 6.2 g | Cl.NC(C(=O)OCC)C(=O)OCC
reactant | pyridine | 29.3 mmol, 4.5 ml | N1=CC=CC=C1 | C5H5N
solvent | dichloromethane | 140 ml | ClCCl | CH2Cl2
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
product | diethyl 2-(2-(4-fluorophenyl)acetamido)malonate | 8.5 g, 93% | FC1=CC=C(C=C1)CC(=O)NC(C(=O)OCC)C(=O)OCC | C15H18FNO5
